US04863945
6,7-Dihydro-7,7-dimethyl-2-(4-methoxyphenylamino)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
3 ml. 4-Methoxyphenyl isothiocyanate are added dropwise to a solution of 3.8 g. 5,6-diamino-3,3-dimethylindolin-2-one in 20 ml. dry ethanol. The reaction mixture is stirred for 3 hours at 60° C., the solvent is removed in a vacuum, the residue is suspended in water and extracted with dichloromethane. The organic phase is dried over anhydrous sodium sulphate, filtered and the solvent removed in a vacuum to give 7.5 g. of residue, 6.8 g. of which are dissolved in 1 liter dichloromethane. 8 ml. Triethylamine and 16 g. mercurous chloride are added thereto and the reaction mixture boiled under reflux for 3 days. The solvent is removed in a vacuum, the residue is suspended in 100 ml. ethanol and 30 ml. concentrated hydrochloric acid are added thereto, followed by saturation with hydrogen sulphide. The reaction mixture is heated under reflux and the precipitated mercury sulphide is filtered off and then washed with hot ethanol. The filtrate is evaporated to dryness in a vacuum, the residue is dissolved in 100 ml. water, insoluble components are filtered off, the filtrate is rendered alkaline with 2N ammonia solution, the base is filtered off with suction and then washed with water. The product is purified over a silica gel column (elution agent 1,1,1-trichloroethane/methanolic ammonia 15:1 v/v). The appropriate fractions are evaporated in a vacuum, the oil obtained is taken up in hot ethanol, diethyl ether is added thereto until turbidity commences and then left to crystallise. There are obtained 2.8 L g. of the title compound; m.p. 286°-288° C.

reactant | 4-Methoxyphenyl isothiocyanate | COC1=CC=C(C=C1)N=C=S | C8H7NOS
reactant | 5,6-diamino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 6,7-Dihydro-7,7-dimethyl-2-(4-methoxyphenylamino)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)NC3=CC=C(C=C3)OC)C=C21)=O)C | C18H18N4O2
